US06462038B1
6-Amino-7-hydroxy-2-isopropyloxy-4-(trifluoromethyl)quinoline (Structure 28 of Scheme VI).
To a suspension of sodium hydride (60% mineral oil dispersion, 180 mg, 4.6 mmol, rinsed with hexanes) in 3.5 mL DMF was added thiophenol (550 mg, 5.0 mmol) at 0° C., whereupon a solution of 6-amino-2-isopropyloxy-7-methoxy-4-(trifluoromethyl)quinoline (200 mg, 0.67 mmol) in 2 mL DMF was added. The mixture was heated at 110° C. for 6 h, then poured into ice, and the pH was adjusted to 5 by the addition of 2N NaHSO4. The mixture was extracted with EtOAc (2×30 mL), washed sequentially with water (30 mL) and brine (30 mL), dried over Na2SO4, filtered, and concentrated. Flash chromatography (4:1 hexanes:EtOAc) afforded 147 mg (77%) of 6-amino-2-isopropyloxy-7-methoxy-4-(trifluoromethyl)quinoline, a tan solid. Data for 6-amino-2-isopropyloxy-7-methoxy-4-(trifluoromethyl)quinoline: Rf 0.14 (4:1 hexanes:EtOAc); 1H NMR (500 MHz, CDCl3) δ 7.19 (broad s, 1H), 7.16 (s, 1H), 6.99 (s, 1H), 5.60 (v. broad s, 1H), 5.45 (hept, 1H, J=6.2), 4.00 (v. broad s, 2H), 1.38 (d, 6H, J=6.3).

reactant | 6-amino-2-isopropyloxy-7-methoxy-4-(trifluoromethyl)quinoline | NC=1C=C2C(=CC(=NC2=CC1OC)OC(C)C)C(F)(F)F | C14H15F3N2O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-Amino-7-hydroxy-2-isopropyloxy-4-(trifluoromethyl)quinoline | NC=1C=C2C(=CC(=NC2=CC1O)OC(C)C)C(F)(F)F | C13H13F3N2O2
